US05886008
C. 5-Cyano-1-[3(piperid-4-yl)indol-5-yl]-1H-benzimidazole
5-Cyano-1-[3-(N-t-butoxycarbonylpiperid-4-yl)indol-5-yl]-1H-benzimidazole was used, and methylene chloride was used as solvent. Filtration afforded the title compound (64%) as a yellow solid: IR (KBr) 2229 cm-1 ; 13C NMR (CD3OD) δ 137.4, 129.6, 126.6, 124.7, 123.6, 120.6, 119.2, 117.9, 117.5, 116.4, 114.8, 112.8, 109.9, 44.6, 31.3, 29.4. Anal. calcd. for C21H19N5.3 HCl.1.25 H2O: C, 53.29; H, 5.22; N, 14.80. Found: C, 53.63; H, 5.34; N, 14.68.

reactant | 5-Cyano-1-[3-(N-t-butoxycarbonylpiperid-4-yl)indol-5-yl]-1H-benzimidazole | C(#N)C1=CC2=C(N(C=N2)C=2C=C3C(=CNC3=CC2)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C26H27N5O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Cyano-1-[3(piperid-4-yl)indol-5-yl]-1H-benzimidazole | 64% | C(#N)C1=CC2=C(N(C=N2)C=2C=C3C(=CNC3=CC2)C2CCNCC2)C=C1 | C21H19N5
